US07452993B2
Step 2: Synthesis of N-(5-Bromo-3-trimethylsilanylethynyl-pyrazin-2-yl)-acetamide
To a solution of 5-Bromo-3-trimethylsilanylethynyl-pyrazin-2-ylamine (2.30 g, 8 mmol) in anhydrous THF (35 ml) and pyridine (1.62 ml, 20.0 mmol) was added acetyl chloride (682 μl, 9.6 mmol). The mixture was stirred at room temperature overnight, and then stirred at 60° C. for 5 hours. Solvents were removed in vacuum and the resulting brown residue was purified by silica gel chromatogrpahy with a gradient of ethyl acetate/hexane to afford the title compound (474 mg, 1.52 mmol) as light yellow as off white solid. MS: m/z 311.9/313.9 [MH+].

reactant | 5-Bromo-3-trimethylsilanylethynyl-pyrazin-2-ylamine | 8 mmol, 2.30 g | BrC=1N=C(C(=NC1)N)C#C[Si](C)(C)C | C9H12BrN3Si
reactant | pyridine | 20.0 mmol, 1.62 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 9.6 mmol, 682 μl | C(C)(=O)Cl | C2H3ClO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | N-(5-Bromo-3-trimethylsilanylethynyl-pyrazin-2-yl)-acetamide | 1.52 mmol, 474 mg | BrC=1N=C(C(=NC1)NC(C)=O)C#C[Si](C)(C)C | C11H14BrN3OSi
